US06599917B1
c) 2-Benzyl-7-ethoxycarbonyl-3-hydroxyquinoline
A mixture of 203 mg of 2-benzyl-7-cyano-3-hydroxyquinoline, 2.6 g of potassium hydroxide, 5.5 ml of water and 20 ml of ethanol was heated under reflux for 2 hours. After cooling as it was, dilute hydrochloric acid was added thereto. The mixture was extracted with diethyl ether and the solvent was removed. To the residue were added 30 ml of ethanol and 3.0 ml of concentrated sulfuric acid, followed by heating under reflux for one hour. After cooling as it was, the solvent was removed. Diethyl ether and an aqueous potassium carbonate solution were added thereto, followed by extracting with diethyl ether. The organic phase was washed with brine and the solvent was removed, to give 204 mg of the target compound.

reactant | 2-benzyl-7-cyano-3-hydroxyquinoline | 203 mg | C(C1=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1O)C#N | C17H12N2O
reactant | potassium hydroxide | 2.6 g | [OH-].[K+]
reactant | water | 5.5 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Benzyl-7-ethoxycarbonyl-3-hydroxyquinoline | 204 mg | C(C1=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1O)C(=O)OCC | C19H17NO3
